US08048909B2
tert-Butyl methyl[(5-phenyl-1-{[3-(1H-tetrazol-5-yl)phenyl]sulfonyl}-1H-pyrrol-3-yl)methyl]carbamate
A mixture of tert-butyl ({1-[(3-cyanophenyl)sulfonyl]-5-phenyl-1H-pyrrol-3-yl}methyl)methylcarbamate (0.29 g), sodium azide (70 mg), triethylamine hydrochloride (0.19 g) and toluene (10 ml) was heated under reflux for 7 days. After cooling the reaction mixture, ethyl acetate was added to the mixture, and the mixture was washed with saturated brine, dried over anhydrous magnesium sulfate, and concentrated under reduced pressure. The residue was purified by silica gel column chromatography (eluent: ethyl acetate-methanol=10:1) to give the title compound as an oil (yield 0.052 g, 16%).

reactant | tert-butyl ({1-[(3-cyanophenyl)sulfonyl]-5-phenyl-1H-pyrrol-3-yl}methyl)methylcarbamate | 0.29 g | C(#N)C=1C=C(C=CC1)S(=O)(=O)N1C=C(C=C1C1=CC=CC=C1)CN(C(OC(C)(C)C)=O)C | C24H25N3O4S
reactant | sodium azide | 70 mg | [N-]=[N+]=[N-].[Na+]
reactant | triethylamine hydrochloride | 0.19 g | Cl.C(C)N(CC)CC
reactant | toluene | 10 ml | C1(=CC=CC=C1)C | C7H8
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | tert-Butyl methyl[(5-phenyl-1-{[3-(1H-tetrazol-5-yl)phenyl]sulfonyl}-1H-pyrrol-3-yl)methyl]carbamate | yield 0.052 g, 16% | CN(C(OC(C)(C)C)=O)CC1=CN(C(=C1)C1=CC=CC=C1)S(=O)(=O)C1=CC(=CC=C1)C1=NN=NN1 | C24H26N6O4S
